US08791107B2
PREPARATION x66: (R)-5-(2-(1,3-dioxolan-2-yl)ethyl)-2-chloro-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine
The title compound was prepared in a manner similar to PREPARATION x5 using (R)-2-chloro-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine (PREPARATION x2, 250 mg, 1.103 mmol) in DMSO (7 mL), sodium tert-butoxide (127 mg, 1.324 mmol), and 2-(2-bromoethyl)-1,3-dioxolane (220 mg, 1.213 mmol) (200 mg, 56%). ESI-MS m/z [M+H]+ calc'd for C14H19ClN4O3, 327.12. found 327.2.

reactant | (R)-2-chloro-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | 1.103 mmol, 250 mg | ClC1=NC=2N3[C@H](CNC2C=N1)COCC3 | C9H11ClN4O
reactant | sodium tert-butoxide | 1.324 mmol, 127 mg | CC(C)([O-])C.[Na+]
reactant | 2-(2-bromoethyl)-1,3-dioxolane | 1.213 mmol, 220 mg | BrCCC1OCCO1 | C5H9BrO2
solvent | DMSO | 7 mL | CS(=O)C | C2H6OS
product | (R)-5-(2-(1,3-dioxolan-2-yl)ethyl)-2-chloro-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | O1C(OCC1)CCN1C=2C=NC(=NC2N2[C@H](C1)COCC2)Cl | C14H19ClN4O3
